US05500406
5.8 g (49 mmol) of N-ethyl-N-methylthiourea was dissolved in 10 ml of N,N-dimethylformamide. 8.8 g (62 mmol) of methyl iodide was added at room temperature, and the mixture was stirred at room temperature for 15 hours. 500 ml of ethyl acetate was added to the mixture, and precipitated crystals were collected by filtration and then washed with ethyl acetate to obtain 3.1 g of N-ethyl-N-methyl-S-methylisothiourea hydroiodide as pale yellow crystals.

reactant | N-ethyl-N-methylthiourea | 49 mmol, 5.8 g | C(C)N(C(=S)N)C | C4H10N2S
reactant | methyl iodide | 62 mmol, 8.8 g | CI | CH3I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-ethyl-N-methyl-S-methylisothiourea hydroiodide | 3.1 g | I.C(C)N(C(SC)=N)C | InChI=1S/C5H12N2S.HI/c1-4-7(2)5(6)8-3;/h6H,4H2,1-3H3;1H
